US07691855B2
{4-[3-(2,4-Dichloro-phenyl)-1H-pyrazol-4-yl]-pyrimidin-2-yl}-(3,4,5-trimethoxy-phenyl)-amine is synthesized from 4-[3-(2,4-dichloro-phenyl)-1H-pyrazol-4-yl]-2-methanesulfonyl-pyrimidine in analogy to a literature procedure (Klutchko et al., Journal of Medicinal Chemistry, 1998, Vol. 41, No. 17, 3276-3292) using 3,4,5-trimethoxyaniline (Fluka 92129) and glacial HOAc.

reactant | 4-[3-(2,4-dichloro-phenyl)-1H-pyrazol-4-yl]-2-methanesulfonyl-pyrimidine | ClC1=C(C=CC(=C1)Cl)C1=NNC=C1C1=NC(=NC=C1)S(=O)(=O)C | C14H10Cl2N4O2S
reactant | 3,4,5-trimethoxyaniline | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
solvent | HOAc | CC(=O)O | C2H4O2
product | {4-[3-(2,4-Dichloro-phenyl)-1H-pyrazol-4-yl]-pyrimidin-2-yl}-(3,4,5-trimethoxy-phenyl)-amine | ClC1=C(C=CC(=C1)Cl)C1=NNC=C1C1=NC(=NC=C1)NC1=CC(=C(C(=C1)OC)OC)OC | C22H19Cl2N5O3
